US04107310
3.8 ml of thionyl chloride were added to a suspension of 8.2 g of 4-hydroxy-quinoline-3-carboxylic acid in 160 ml of benzene and the mixture was refluxed for an hour and then cooled. The mixture was vacuum filtered and the precipiate was empasted with a little anhydrous benzene and was dried to obtain 9 g of 4-hydroxy-quinoline-3-carboxylic acid chloride melting at 260° C. The said product was then reacted with 4.35 g of 2-aminothiazole as in Example 1 to obtain 4.3 g of N-(2-thiazolyl)-4-hydroxy-quinoline-3-carboxamide melting at 349°-350° C.

reactant | thionyl chloride | 3.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-quinoline-3-carboxylic acid | 8.2 g | OC1=C(C=NC2=CC=CC=C12)C(=O)O | C10H7NO3
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | 4-hydroxy-quinoline-3-carboxylic acid chloride | 9 g | OC1=C(C=NC2=CC=CC=C12)C(=O)Cl | C10H6ClNO2
